US04389412
In 20 ml of dry benzene was dissolved 2.28 g of cis-2,2-dimethyl-3-(2,2-dichlorovinyl)cyclopropanecarbonyl chloride, followed by addition of 2.34 g of 3-(4-chlorophenoxy)benzyl alcohol and 1.58 g of pyridine. The mixture was stirred at room temperature overnight. Thereafter, the reaction mixture was washed with dilute hydrochloric acid and water, dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove a low-boiling fraction, whereby an oily product was obtained as a residue. This oil was purified by preparative liquid chromatography [column: Waters Associates' Prep LC/System 500, Prep PAK® 500/SILICA; solvent system: diisopropyl ether:n-hexane=6:94, v/v]. The above procedure yielded 3.91 g of 3-(4-chlorophenoxy)benzyl cis-2,2-dimethyl-3-(2,2-dichlorovinyl)cyclopropanecarboxylate (yield 92%).

reactant | cis-2,2-dimethyl-3-(2,2-dichlorovinyl)cyclopropanecarbonyl chloride | 2.28 g | CC1([C@H]([C@H]1C=C(Cl)Cl)C(=O)Cl)C | C8H9Cl3O
reactant | 3-(4-chlorophenoxy)benzyl alcohol | 2.34 g | ClC1=CC=C(OC=2C=C(CO)C=CC2)C=C1 | C13H11ClO2
reactant | pyridine | 1.58 g | N1=CC=CC=C1 | C5H5N
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 3-(4-chlorophenoxy)benzyl cis-2,2-dimethyl-3-(2,2-dichlorovinyl)cyclopropanecarboxylate | 3.91 g, yield 92% | CC1([C@H]([C@H]1C=C(Cl)Cl)C(=O)OCC1=CC(=CC=C1)OC1=CC=C(C=C1)Cl)C | C21H19Cl3O3
